Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Tussionex
 
Attending: ___.
 
Chief Complaint:
Right inguinal hernia
 
Major Surgical or Invasive Procedure:
Right inguinal hernia repair with mesh

 
History of Present Illness:
___ year-old man who noticed 2 weeks of pain in his right groin 
with a golf ball sized bulge that became more prominent with 
activity. Occasionally he noted nausea but no vomiting. He does 
note some irregular bowel movements (constipation) over the past 
several months. He denies any melena or blood in his stool. He 
also experiences some crampy abdominal pain which is not 
associated with food intake. 
 
Past Medical History:
1.  Low back pain/arthritis.
2.  Benign prostatic hypertrophy.
3.  Gastroesophageal reflux symptoms.
4.  History of tuberculosis status post treatment.

 
Social History:
___
Family History:
His family history is notable for his father who had pancreatic 
cancer and his mother who had heart failure. 
 
Physical Exam:
Temperature 97.7 / HR 63 BP 102/68 RR 16 SaO2 97%/RA

General: AAOx3, NAD
Pulmonary: CTAB. No r/r.
CV: Normal S1 and S2. No m/r/g.
Abdomen: Bowel sounds present. 3 laparascopic incisions, 
banadaged, c/d/i. No rebound tenderness or guarding. Mildly 
diffuse TTP.
Extremities: 2+ pulses. No c/c/e.

 
Pertinent Results:
None.
 
Brief Hospital Course:
___ year-old man admitted for a right inguinal hernia repair. 
Post-operatively he has been doing well and ambulating. Pain has 
been controlled with oral medications including oxycodone and 
Tylenol. He is tolerating a regular diet without any nausea or 
vomiting. He has passed some gas, but no bowel movements as yet. 
His Foley was discontinued post-operative day 1 and he has since 
voided. He is on his home medications. Vital signs remained 
stable throughout his hospitalization. He was discharged home 
with prescription for oxycodone and colace, and has scheduled 
follow-up with Dr. ___. 
 
Medications on Admission:
asa 81, flomax 0.4, prilosec 20, ranitidine 150, finasteride 5  

 
Discharge Medications:
1. oxycodone 5 mg Tablet Sig: ___ Tablets PO every ___ hours as 
needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
2. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H (every 
4 hours) as needed for fever/pain: No more than 4g every 24 
hours. Tablet(s) 
3. finasteride 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. tamsulosin 0.4 mg Capsule, Ext Release 24 hr Sig: One (1) 
Capsule, Ext Release 24 hr PO HS (at bedtime).  
7. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO once a day. 
8. colace 100mg bid 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-R inguinal hernia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call the surgery clinic for the following:
-Temperature greater than 101.4F
-Increasing redness, swelling, pain at the incision sites
-Inability to tolerate food or drink
-Persistent nausea or vomiting

Incision Care:
*Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 
incision site.
*Avoid swimming and baths until cleared by your surgeon.
*You may shower and wash incisions with a mild soap and warm 
water.  Gently pat the area dry.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.
.
General Discharge Instructions:
Please resume all regular home medications, unless specifically 
advised not to take a particular medication.  Please take any 
new medications as prescribed.
Please take the prescribed analgesic medications as needed.  You 
may not drive or heavy machinery while taking narcotic analgesic 
medications.  You may also take acetaminophen (Tylenol) as 
directed, but do not exceed 4000 mg in one day.
Please get plenty of rest, continue to walk several times per 
day, and drink adequate amounts of fluids.  Avoid strenuous 
physical activity and refrain from heavy lifting greater than 20 
lbs., until you follow-up with your surgeon, who will instruct 
you further regarding activity restrictions.  Please also 
follow-up with your primary care physician.

 
Followup Instructions:
___